US07713994B2
4-{[(5-Methoxy-4-oxo-4H-pyran-2-ylmethyl)-amino]-methylene}-6-pyrrol-1-yl-4H-isoquinoline-1,3-dione
A mixture of 2-aminomethyl-5-methoxy-pyran-4-one (116 mg, 0.75 mmole), 4 mL of N,N-dimethylformamide and 4-methoxymethylene-6-pyrrol-1-yl-4H-isoquinoline-1,3-dione (201 mg, 0.80 mmole) is stirred for one hour at ambient temperature. The reaction mixture is evaporated to dryness, dissolved in 7.5% methanol in chloroform passed through Florisil eluting with 7.5% methanol in chloroform. The eluate is evaporated, treated with acetonitrile, the resulting solid filtered and dried to give a beige solid, 106 mg, (36%), mp 251-4° C. dec; MS (ES−): m/z 390.1 (M−H).

reactant | 2-aminomethyl-5-methoxy-pyran-4-one | 0.75 mmole, 116 mg | NCC=1OC=C(C(C1)=O)OC | C7H9NO3
reactant | 4-methoxymethylene-6-pyrrol-1-yl-4H-isoquinoline-1,3-dione | 0.80 mmole, 201 mg | COC=C1C(NC(C2=CC=C(C=C12)N1C=CC=C1)=O)=O | C15H12N2O3
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 4-{[(5-Methoxy-4-oxo-4H-pyran-2-ylmethyl)-amino]-methylene}-6-pyrrol-1-yl-4H-isoquinoline-1,3-dione | COC=1C(C=C(OC1)CNC=C1C(NC(C2=CC=C(C=C12)N1C=CC=C1)=O)=O)=O | C21H17N3O5
